US05102842
3,3,3-trifluoropropyl(isobutyl)dimethoxy silane
Under nitrogen, a 500 ml Schlenk flask was cooled to room temperature and charged with 150 ml of diethyl ether and isobutylmagnesium chloride (0.06 mol, 30.24 ml). This was stirred and heated slightly to 30° C. A second Schlenk flask (100 ml) was purged with nitrogen to room temperature and charged with 75 ml hexane and 3,3,3-trifluoropropyltrimethoxy silane (0.0504 mol, 10 ml) and stirred. The silane/hexane solution was added dropwise via cannula to the Grignard/diethyl ether mixture producing a white precipitate midway through the addition. After addition (1.25 hrs.), the reaction mixture was stirred at room temperature for one hour. The flask was fitted with a reflux condenser and the reaction mixture was refluxed for two hours, then allowed to cool to room temperature. The reaction mixture was filtered through a medium porosity frit, using Celite diatomaceous earth and glass wool as a filtering aid. The solids collected weighed 7.55 g (theoretical=4.56 grams of magnesium salts). The slightly cloudy filtrate was kept under nitrogen overnight.

reactant | isobutylmagnesium chloride | 0.06 mol, 30.24 ml | C(C(C)C)[Mg]Cl
reactant | 3,3,3-trifluoropropyltrimethoxy silane | 0.0504 mol, 10 ml | FC(CC[Si](OC)(OC)OC)(F)F | C6H13F3O3Si
reactant | silane hexane | [SiH4].CCCCCC
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | 75 ml | CCCCCC | C6H14
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 3,3,3-trifluoropropyl(isobutyl)dimethoxy silane | FC(CC[Si](OC)(OC)CC(C)C)(F)F | C9H19F3O2Si
